US06551682B1
(17) Production of 1-(3-methoxy-2-pyridylazo)-2-naphthol (No. L140)
Next, a reaction flask was loaded with sodium ethylate (2.2 g) and ethanol (33 ml) and they were mixed. To the mixture, 2-amino-3-methoxypyridine (3.3 g) was added, and then isopentyl nitrite (3.7 g) was dropwise added in ten minutes with stirring. This was heated and stirred at the reflux temperature for 3.5 hours. The heating was stopped, and the mixture was cooled to room temperature. To this, 2-naphthol (2.7 g) dissolved in ethanol (5 ml) was dropwise added in 30 minutes. After stirring at room temperature for one hour, this mixture was heated to the reflux temperature, followed by stirring for additional 3 hours. The reaction mixture was filtrated and the filtrated crystals were recrystallized with methanol-water and further recrystallized with dioxane to give intended crystals (0.68 g).

reactant | sodium ethylate | 2.2 g | CC[O-].[Na+]
reactant | 2-amino-3-methoxypyridine | 3.3 g | NC1=NC=CC=C1OC | C6H8N2O
reactant | isopentyl nitrite | 3.7 g | N(=O)OCCC(C)C | C5H11NO2
reactant | 2-naphthol | 2.7 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 33 ml | C(C)O | C2H6O
product | 1-(3-methoxy-2-pyridylazo)-2-naphthol | COC=1C(=NC=CC1)N=NC1=C(C=CC2=CC=CC=C12)O | C16H13N3O2
